US05872137
To a solution of 0.18 g of 4-(3-fluorophenyl)-1-butanol, 0.30 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol and 0.27 g of triphenylphosphine dissolved in 10 ml of tetrahydrofuran, a solution of 0.20 ml of N,N-diisopropylazodicarboxylate dissolved in 5 ml of tetrahydrofuran was added dropwise, while stirring at room temperature. After stirring at room temperature for 24 hours, the reaction mixture was concentrated to obtain a residue. The residue was subjected to silica gel chromatography, which afforded 0.38 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-fluorophenyl) butyloxy)benzene (83% yield), nD25.0 1.5620.

reactant | 4-(3-fluorophenyl)-1-butanol | 0.18 g | FC=1C=C(C=CC1)CCCCO | C10H13FO
reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 0.30 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | triphenylphosphine | 0.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-fluorophenyl) butyloxy)benzene | 0.38 g, 83% yield | ClC=1C=C(C=C(C1OCCCCC1=CC(=CC=C1)F)Cl)OCC=C(Cl)Cl | C19H17Cl4FO2
